US06784172B2
4-Acetylbenzodiazepine (28.5 g, 50.15 m) and allyl N-[(mesitylsulfonyl)-oxy]carbamate (53.8 g, 0.18 m) were combined in toluene (270 mL) and heated under reflux for 2.5 h. The reaction was quenched with 0.5 N NaOH. The precipitate that formed was removed by filtration and the aqueous filtrate was extracted with ethyl acetate (3×). The combined organic layers were washed with saturated sodium chloride solution, dried (MgSO4), and evaporated to give a residue which was dissolved in methylene chloride (490 mL) and treated with diethylamine (51 mL, 5 eq.) and tetrakis triphenylphosphinepalladium (115 mg, 0.001 eq). After stirring for 2 h at room temperature, the volatiles were removed under reduced pressure and the residue was purified by chromatography on silica gel eluting with 10-20% methanol in ethyl acetate to give 4-acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepin-1-ylamine (13.5 g, 44%) as a white solid.

reactant | 4-Acetylbenzodiazepine | 28.5 g | C(C)(=O)C=1C=NNC2=C(C1)C=CC=C2 | C11H10N2O
reactant | allyl N-[(mesitylsulfonyl)-oxy]carbamate | 53.8 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ONC(OCC=C)=O)C | C13H17NO5S
reactant | diethylamine | 51 mL, 5 eq. | C(C)NCC | C4H11N
solvent | toluene | 270 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 490 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-acetyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepin-1-ylamine | 13.5 g, 44% | C(C)(=O)N1CCN(C2=C(C1)C=CC=C2)N | C11H15N3O
